US07524840B2
A mixture of 1.8281 g (0.005 mole) of 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-hydroxy-2H-1,4-benzodiazepin-2-one (Ipp) from the previous step, 0.636 g of sodium carbonate, 0.9818 g (0.006 mole) of 4-(3-chloropropyl)-morpholine and 50 mL of dimethylformamide was stirred at 50° C., under an argon atmosphere for 73 hours. The mixture was then cooled and partitioned between ethyl acetate and saturated sodium bicarbonate. The aqueous layer was then reextracted with ethyl acetate. The ethyl acetate layers were washed successively with saturated sodium bicarbonate, water, brine and then dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give the crude 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-(3-(4-morpholinyl)propoxy)-2H-1,4-benzodiazepin-2-one (Ij). Pure 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-(3-(4-morpholinyl)propoxy)-2H-1,4-benzodiazepin-2-one (Ij) (1.721 g) was obtained by silica gel chromatography eluting with ethyl acetate-methanol (90:10). MH+/Z=492.

reactant | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-hydroxy-2H-1,4-benzodiazepin-2-one | 0.005 mole, 1.8281 g | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)O | C15H10BrClN2O2
reactant | sodium carbonate | 0.636 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(3-chloropropyl)-morpholine | 0.006 mole, 0.9818 g | ClCCCN1CCOCC1 | C7H14ClNO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 7-bromo-5-(2-chlorophenyl)-1,3-dihydro-8-(3-(4-morpholinyl)propoxy)-2H-1,4-benzodiazepin-2-one | 1.721 g | BrC=1C(=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1)OCCCN1CCOCC1 | C22H23BrClN3O3
